US20010016657A1
3Chloro-4-iso-propoxybenzoic acid
Methyl 3-chloro-4-iso-propoxybenzoate (5.5 g, 24.1 mmol) was hydrolysed using 1M NaOH (36 ml) in methanol (80 ml). Extraction and work-up with ethyl acetate gave the title compound (4.3 g).

reactant | Methyl 3-chloro-4-iso-propoxybenzoate | 24.1 mmol, 5.5 g | ClC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13ClO3
reactant | NaOH | 1M, 36 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 3Chloro-4-iso-propoxybenzoic acid | 4.3 g | ClC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11ClO3
